US08563575B2
A mixture of 2-chlorobenzimidazole (10.0 g) and 4-nitroaniline (9.05 g) in NMP (130 mL) was stirred at 120° C. for 3 days. After this time, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate (750 ml) and washed with water (750 mL). The aqueous layer was extracted with ethyl acetate (750 mL) and the combined organic extracts were washed with water (3×750 mL) then brine (750 mL), dried over sodium sulfate, and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was triturated with 1:1 ethyl acetate/heptane (200 mL) and the solid that formed was collected by filtration to afford N-(4-nitrophenyl)-1H-benzimidazol-2-amine (4.00 g) as an orange solid.

reactant | 2-chlorobenzimidazole | 10.0 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-nitroaniline | 9.05 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | NMP | 130 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-nitrophenyl)-1H-benzimidazol-2-amine | 4.00 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC2=C(N1)C=CC=C2 | C13H10N4O2
